US06858591B2
By using an analogous procedure to that described for Reference Example 13, Fmoc-11-aminoundecanoic acid (2 g, 4.7 mmol), hydroxybenzotriazole (639 mg, 4.7 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (906 mg, 4.7 mmol), 1-amino-3,3-diethoxypropane (662 gm, 4.5 mmol) and N,N-diisopropylethylamine (0.834 ml, 4.7 mmol) were reacted in anhydrous tetrahydrofuran (30 ml) at room temperature for 16 hours. Purification by chromatography (flash column, silica gel, 50-80% ethyl acetate in hexanes then 10% methanol in methylene chloride) provided 9H-fluoren-9-ylmethyl 11-[(3,3-diethoxypropyl)amino]-11-oxoundecyl-carbamate (560 mg, 23%) as a white solid.

reactant | Fmoc-11-aminoundecanoic acid | 4.7 mmol, 2 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C(=O)O)CCCCCCCCCN | C26H33NO4
reactant | hydroxybenzotriazole | 4.7 mmol, 639 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.7 mmol, 906 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-amino-3,3-diethoxypropane | 4.5 mmol, 662 gm | NCCC(OCC)OCC | C7H17NO2
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.834 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 9H-fluoren-9-ylmethyl 11-[(3,3-diethoxypropyl)amino]-11-oxoundecyl-carbamate | 560 mg, 23% | C(C)OC(CCNC(CCCCCCCCCCNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)OCC | C33H48N2O5
